US04992474
1-[3-[(6-Bromohexyl)oxy]propyl]-2-fluorobenzene
(4.71 g), T.l.c. (ER- CX 1:79) Rf 0.22, from 1,6-dibromohexane (14.28 g) and 3-(2-fluorophenyl)-1-propanol (3.0 g).

reactant | 1,6-dibromohexane | 14.28 g | BrCCCCCCBr | C6H12Br2
reactant | 3-(2-fluorophenyl)-1-propanol | 3.0 g | FC1=C(C=CC=C1)CCCO | C9H11FO
product | 1-[3-[(6-Bromohexyl)oxy]propyl]-2-fluorobenzene | BrCCCCCCOCCCC1=C(C=CC=C1)F | C15H22BrFO
